US09029544B2
(S)-9-hydroxy-4-isopropyl-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3-one
0.700 g (1R,2S)-(+)-cis-1-Amino-2-indanol are dissolved in 150 ml tetrahydrofurane and to this solution are dropwise added 6.12 ml of a borane-diethylaniline-complex. After completion of gas evolution the solution is cooled to 0° C. and 5.54 g 4-Isopropyl-7,7-dimethyl-2′,3′,5′,6′,7,8-hexahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3,9(6H)-dione in 150 ml tetrahydrofurane are added dropwise. The temperature is raised during 2 hours to room temperature and the mixture is stirred for 24 hours. 10 ml Methanol are added dropwise and the solvents are evaporated in vacuo. The residue was dissolved in dichloromethane and is washed with 0.1 M hydrochloric acid and saturated aqueous sodium bicarbonate solution consecutively. The combined organic phases are dried with sodium sulphate and the solvents are evaporated in vacuo. The residue is chromatographed on silica gel (petrole ether/ethylacetate 100:0 to 3:2).

reactant | (1R,2S)-(+)-cis-1-Amino-2-indanol | 0.700 g | C1[C@@H]([C@@H](C2=CC=CC=C21)N)O | C9H11NO
reactant | borane diethylaniline | 6.12 ml | B.CCN(CC)C=1C=CC=CC1
reactant | 4-Isopropyl-7,7-dimethyl-2′,3′,5′,6′,7,8-hexahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3,9(6H)-dione | 5.54 g | C(C)(C)C1=NC=2CC(CC(C2C2=C1C(OC21CCOCC1)=O)=O)(C)C | C20H25NO4
reactant | Methanol | 10 ml | CO | CH4O
solvent | tetrahydrofurane | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 150 ml | O1CCCC1 | C4H8O
product | (S)-9-hydroxy-4-isopropyl-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3-one | O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C(C)C)C(OC31CCOCC1)=O | C20H27NO4
